US09145415B2
To a solution of 2-chloro-5-iodo-4-methoxypyrimidine (Q1, 101 mg), tert-butyl ((1S,3R)-3-ethynylcyclohexyl)carbamate (P0, 100 mg), bis(triphenylphosphine)palladium(II) dichloride (26 mg) and copper(I) iodide (14 mg) in N,N-dimethylformamide (3 mL), triethylamine (258 μL) was added at room temperature, and the mixture was stirred at the same temperature for 1 hour. To the reaction mixture, ethyl acetate and saturated aqueous ammonium chloride were added. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 88 to 50% hexane in ethyl acetate) to obtain tert-butyl ((1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)carbamate (Q2, 118 mg).

reactant | 2-chloro-5-iodo-4-methoxypyrimidine | 101 mg | ClC1=NC=C(C(=N1)OC)I | C5H4ClIN2O
reactant | tert-butyl ((1S,3R)-3-ethynylcyclohexyl)carbamate | 100 mg | C(#C)[C@H]1C[C@H](CCC1)NC(OC(C)(C)C)=O | C13H21NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 258 μL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 26 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 14 mg | [Cu]I
product | tert-butyl ((1S,3R)-3-((2-chloro-4-methoxypyrimidin-5-yl)ethynyl)cyclohexyl)carbamate | 118 mg | ClC1=NC=C(C(=N1)OC)C#C[C@H]1C[C@H](CCC1)NC(OC(C)(C)C)=O | C18H24ClN3O3
